US04410529
4.0 g (21.1 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-3(2H)-pyridazinone of trans-2-bromocyclopropanecarboxylic acid chloride, 4.3 g (23.4 millimoles) and 100 ml of absolute tetrahydrofuran are kept for 20 hours at room temperature and then refluxed for 6 hours. The product is filtered off at 10° C., washed with water and recrystallized from dimethylformamide/water. 4.1 g (58% of theory) of trans-6-[p-(2-bromocyclopropylcarbonylamino)-phenyl]-4,5-dihydro-3(2H)-pyridazinone are obtained as colorless crystals, of melting point 260°-261° C. (with decomposition).

reactant | 6-(p-aminophenyl)-4,5-dihydro-3(2H)-pyridazinone | 21.1 millimoles, 4.0 g | NC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H11N3O
reactant | trans-2-bromocyclopropanecarboxylic acid chloride | Br[C@H]1[C@@H](C1)C(=O)Cl | C4H4BrClO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | trans-6-[p-(2-bromocyclopropylcarbonylamino)-phenyl]-4,5-dihydro-3(2H)-pyridazinone | 4.1 g, 58% | Br[C@H]1[C@@H](C1)C(=O)NC1=CC=C(C=C1)C=1CCC(NN1)=O | C14H14BrN3O2
